US20010047031A1
(RS)-4-{1-[4-(2-Methoxymethoxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol
The title compound, MS: m/e=420.3 (M+H+) was prepared from (RS)-4-(1-but-3-enyl-pyrrolidine-3-sulfonyl)-phenol and 1-iodo-2-methoxymethoxy-benzene. 1-Iodo-2-methoxymethoxy-benzene is a known compound and has been prepared as described in the following reference: J. R. Labrosse; C. Poncet; P. Lhoste; D. Sinou; Tetrahedron:, Asymmetry; 10; 6; 1999; 1069-1078

reactant | (RS)-4-(1-but-3-enyl-pyrrolidine-3-sulfonyl)-phenol | C(CC=C)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C14H19NO3S
reactant | 1-iodo-2-methoxymethoxy-benzene | IC1=C(C=CC=C1)OCOC | C8H9IO2
product | (RS)-4-{1-[4-(2-Methoxymethoxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol | COCOC1=C(C=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C22H29NO5S
